US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-3-methoxymethyl-4-phenyl-2H-isoquinolin-1-one
The present compound was synthesized by a method similar to that in Example 240 and using 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one (250 mg) and methyl iodide. Colorless crystals (190 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one | 250 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2CO)C2=CC=CC=C2)Br)=O | C24H18BrNO4
reactant | methyl iodide | CI | CH3I
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-3-methoxymethyl-4-phenyl-2H-isoquinolin-1-one | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2COC)C2=CC=CC=C2)Br)=O | C25H20BrNO4
